US09238631B2
b) Di-tert-butyl (4S)-4-(4-aminobenzyl)-N-(tert-butoxycarbonyl)-L-glutamate
To 2.35 g (4.3 mmol) di-tert-butyl (4S)—N-(tert-butoxycarbonyl)-4-(4-nitrobenzyl)-L-glutamate in 50 mL methanol and under argon atmosphere palladium (10% on charcoal) was added and the suspension hydrogenated overnight at room temperature. The reaction mixture was filtered, the solvent evaporated and the residue was chromatographed on silica gel using a hexane/ethyl acetate gradient, and the appropriate fractions were combined and concentrated.

reactant | di-tert-butyl (4S)—N-(tert-butoxycarbonyl)-4-(4-nitrobenzyl)-L-glutamate | 4.3 mmol, 2.35 g | C(C)(C)(C)OC(=O)N[C@@H](C[C@@H](C(=O)OC(C)(C)C)CC1=CC=C(C=C1)[N+](=O)[O-])C(=O)OC(C)(C)C | C25H38N2O8
solvent | methanol | 50 mL | CO | CH4O
catalyst | palladium | [Pd] | Pd
product | Di-tert-butyl (4S)-4-(4-aminobenzyl)-N-(tert-butoxycarbonyl)-L-glutamate | NC1=CC=C(C[C@@H](C[C@H](NC(=O)OC(C)(C)C)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)C=C1 | C25H40N2O6
